US08304407B2
Synthesis of (1E,4E)-2-amino-N,N-bis(2-methoxyethyl)-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxamide (9)
Trimethylaluminum (0.34 mL of a 2.0 M solution in toluene) was added to bis(2-methoxyethyl)amine (92 mg, 0.69 mmol) in DCE (3 mL). After 10 minutes solid (1E,4E)-ethyl 2-amino-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxylate (80 mg, 0.23 mmol) was added and the vessel was sealed and heated to 75° C. for 16-20 hours. Upon cooling the reaction was quenched with saturated Rochelle's salt (2 mL) and after 20 minutes the mixture was partitioned between CH2Cl2 (50 mL) and brine (50 mL). The phases were separated and the aqueous was extracted with CH2Cl2 (2×20 mL). The combined organics were dried and concentrated. The crude material was purified via preparative TLC (2, 0.5 mm plates, eluting with 5-10% MeOH/CH2Cl2 with 4-6 drops of NH4OH). 1H NMR (CDCl3) δ 2.81 (s, 2H), 3.36 (s, 6H), 3.55-3.74 (m, 8H), 6.98 (s, 1H), 7.20 (d, 1H), 7.40 (d, 1H), 7.39 (s, 1H).

reactant | Trimethylaluminum | C[Al](C)C
reactant | bis(2-methoxyethyl)amine | 0.69 mmol, 92 mg | COCCNCCOC | C6H15NO2
reactant | (1E,4E)-ethyl 2-amino-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxylate | 0.23 mmol, 80 mg | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C(C(F)(F)F)(F)F)\C(=O)OCC | C15H13F5N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
product | (1E,4E)-2-amino-N,N-bis(2-methoxyethyl)-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxamide | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C(C(F)(F)F)(F)F)\C(=O)N(CCOC)CCOC | C19H22F5N3O3
